US07511057B2
1-[4-(Benzyloxy)phenyl]-3-tert-butyl-1H-pyrazol-5-amine
The title compound was prepared from 4,4-dimethyl-3-oxopentane nitrile and 4-benzyloxyphenylhydrazine hydrochloride, using the same method as that described for preparation 7, as a pale pink powder in quantitative yield.

reactant | 4,4-dimethyl-3-oxopentane nitrile | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | 4-benzyloxyphenylhydrazine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
product | 1-[4-(Benzyloxy)phenyl]-3-tert-butyl-1H-pyrazol-5-amine | quantitative yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=C(C=C1N)C(C)(C)C | C20H23N3O
